US06620823B2
Dimethyl 3,4-furandicarboxylate (5.20 g, 28.0 mmol) was combined with 5% Rhodium/C in methanol (30 mL) and ethyl acetate (10 mL) in a Parr shaker bottle. The reaction was charged to 50 psi hydrogen and was shaken for 8.5 h. The reaction was filtered over celite, concentrated in vacuo to give the dimethyl 3,4-tetrahydrofuran dicarboxylate (5.2 g, 100%) as an oil MS (M−CH3OH)+=156.

reactant | Dimethyl 3,4-furandicarboxylate | 28.0 mmol, 5.20 g | O1C=C(C(=C1)C(=O)OC)C(=O)OC | C8H8O5
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Rhodium | [Rh] | Rh
product | dimethyl 3,4-tetrahydrofuran dicarboxylate | 5.2 g, 100% | O1CC(C(C1)C(=O)OC)C(=O)OC | C8H12O5
